US09212182B2
A RBF was charged with 2-bromo-4-methoxybenzonitrile (891 mg, 4.20 mmol, Matrix Scientific) and DCM (1.68E+04 μl) to give a clear solution. silver trifluoromethanesulfonate (1188 mg, 4.62 mmol) and iodine (1173 mg, 4.62 mmol) were added in sequence. The resulting mixture was stirred for 2 d. Additional portions of silver trifluoromethanesulfonate (1188 mg, 4.62 mmol) and iodine (1173 mg, 4.62 mmol) were added, and the mixture was stirred for another 5 h. The reaction mixture was then filtered through celite with the aid of DCM. The filtrate was shaken with saturated aq. sodium thiosulfate until the color disappeared. The biphasic mixture was diluted with water then the layers were separated. The aq. layer was extracted with DCM (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (40-g Redi-Sep Gold column, 25-g silica gel column, 5-30% EtOAc/Heptane) give 2-bromo-5-iodo-4-methoxybenzonitrile (811 mg, 2.400 mmol, 57.1% yield) as an off-white solid. m/z (ESI) 337.8 (M+H)+.

reactant | 2-bromo-4-methoxybenzonitrile | 4.20 mmol, 891 mg | BrC1=C(C#N)C=CC(=C1)OC | C8H6BrNO
reactant | iodine | 4.62 mmol, 1173 mg | II | I2
reactant | iodine | 4.62 mmol, 1173 mg | II | I2
catalyst | silver trifluoromethanesulfonate | 4.62 mmol, 1188 mg | FC(S(=O)(=O)[O-])(F)F.[Ag+]
catalyst | silver trifluoromethanesulfonate | 4.62 mmol, 1188 mg | FC(S(=O)(=O)[O-])(F)F.[Ag+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-iodo-4-methoxybenzonitrile | 2.400 mmol, 811 mg, 57.1% yield | BrC1=C(C#N)C=C(C(=C1)OC)I | C8H5BrINO
